US05162322
3-Methyl-5-[3-[4-(2-pyrimidinyl)-1-piperazinyl]propyl]-2-oxazolidinone.
Following the procedure of Examples 5, 5-(3-chloropropyl)-3-methyl-2-oxazolidinone (5.0 g, 0.0282 mol), 1-(2-pyrimidinyl)piperazine dihydrochloride (6.70 g, 0.0282 mol), potassium carbonate (23.4 g, 0.1695 mol), and potassium iodide (0.5 g) in 1-butanol (100 mL) gave an oil (3.5 g, 41% yield) which was dissolved in a hot mixture of isopropyl ether and isopropanol, filtered hot, and brought to the cloud point by the addition of light pet ether. Upon cooling, a solid precipitated which was collected by filtration, rinsed with light pet ether, and dried under high vacuum to give 1.38 g, mp 79°-89° C.

reactant | 5-(3-chloropropyl)-3-methyl-2-oxazolidinone | 0.0282 mol, 5.0 g | ClCCCC1CN(C(O1)=O)C | C7H12ClNO2
reactant | 1-(2-pyrimidinyl)piperazine dihydrochloride | 0.0282 mol, 6.70 g | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
reactant | potassium carbonate | 0.1695 mol, 23.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | 1-butanol | 100 mL | C(CCC)O | C4H10O
product | 3-Methyl-5-[3-[4-(2-pyrimidinyl)-1-piperazinyl]propyl]-2-oxazolidinone | 3.5 g, 41% yield | CN1C(OC(C1)CCCN1CCN(CC1)C1=NC=CC=N1)=O | C15H23N5O2
